US09428452B2
methyl 4-(4-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)phenyl)-4-nitrobutanoate
To a solution of methyl 4-nitrobutanoate (0.094 mL, 0.757 mmol), 4-bromo-N-(2,4-dimethylphenyl)-N-isobutylbenzenesulfonamide (200 mg, 0.505 mmol), di-tert-butyl(2′-methyl-[1,1′-biphenyl]-2-yl)phosphine (15.77 mg, 0.050 mmol) and cesium carbonate (197 mg, 0.606 mmol) in 1,2-dimethoxyethane (DME) (3 mL) at room temperature was added bis(dibenzylideneacetone)palladium(0) (14.51 mg, 0.025 mmol). The vial was flushed with nitrogen for 2 minutes then sealed and heated by microwaves (Emrys Optimiser) to 120° C. for 60 minutes. The reaction mixture was cooled then passed through a pre-packed silica (Si) cartridge, eluting with methanol (15 mL). The resulting filtrate was evaporated in vacuo then purified by mass directed autoprep (formic acid modifier). The relevant fractions were concentrated under a stream of nitrogen to give the required product (N70% pure), 96 mg, used directly in next step without further purification. LCMS [LCMS1] Rt 1.41 min, m/z (ES+) 463 (M+H).

reactant | methyl 4-nitrobutanoate | 0.757 mmol, 0.094 mL | [N+](=O)([O-])CCCC(=O)OC | C5H9NO4
reactant | 4-bromo-N-(2,4-dimethylphenyl)-N-isobutylbenzenesulfonamide | 0.505 mmol, 200 mg | BrC1=CC=C(C=C1)S(=O)(=O)N(CC(C)C)C1=C(C=C(C=C1)C)C | C18H22BrNO2S
reactant | di-tert-butyl(2′-methyl-[1,1′-biphenyl]-2-yl)phosphine | 0.050 mmol, 15.77 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=CC=C1)C)C(C)(C)C | C21H29P
reactant | cesium carbonate | 0.606 mmol, 197 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,2-dimethoxyethane | 3 mL | COCCOC | C4H10O2
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.025 mmol, 14.51 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | methyl 4-(4-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)phenyl)-4-nitrobutanoate | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)C(CCC(=O)OC)[N+](=O)[O-])CC(C)C | C23H30N2O6S
